US06518273B1
Ethyl 5-Methyl-2-phenyl-1H-indole-3-acetate
A suspension of palladium on carbon (10%, 1 g) in dioxane (50 mL) was added to a solution of ethyl 5-methyl-α-oxo-2-phenyl-1H-indole-3-acetate (Description 4, 3.66 g) in dioxane (250 mL). A solution of sodium hypophosphite (10 g) in water (10 mL) was added and the mixture was heated under reflux for 10 h. Further palladium on carbon (10%, 1 g) and sodium hypophosphite (10 g) were added and the mixture was heated under reflux for 24 h. Further palladium on carbon (10%, 1 g) and sodium hypophosphite (10 g) were added and the mixture was heated under reflux for 24 h. The mixture was cooled, filtered through celite and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with hexane/EtOAc (90:10) to give the title compound as a colourless solid (1.6 g, 47%). 1H NMR (360 MHz, CDCl3) δ0.86 (3H, t, J 7 Hz), 2.43 (3H, s), 3.73 (2H, s), 4.11-4.16 (2H, m), 6.96 (1H, dd, J 8, 1.8 Hz), 7.18 (1H, d, J 10.8 Hz), 7.28-7.46 (5H, m), 7.58 (1H, d, J 7.2 Hz), and 7.98 (1H, br s). m/z (ES+) 294 (M+1).

reactant | ethyl 5-methyl-α-oxo-2-phenyl-1H-indole-3-acetate | 3.66 g | CC=1C=C2C(=C(NC2=CC1)C1=CC=CC=C1)C(C(=O)OCC)=O | C19H17NO3
reactant | sodium hypophosphite | 10 g | [PH2](=O)[O-].[Na+]
reactant | sodium hypophosphite | 10 g | [PH2](=O)[O-].[Na+]
reactant | sodium hypophosphite | 10 g | [PH2](=O)[O-].[Na+]
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | Ethyl 5-Methyl-2-phenyl-1H-indole-3-acetate | 1.6 g, 47% | CC=1C=C2C(=C(NC2=CC1)C1=CC=CC=C1)CC(=O)OCC | C19H19NO2
